US04108830
A mixture of 30 grams of sodium hydroxide, 5 grams of tetrabutylammonium bromide, 60 milliliters of water and 250 milliliters of benzene is heated to 70° C. and to it is added over a period of 5 hours a solution of 127.5 grams of 3,5-di-t-butyl-4-hydroxybenzyl chloride and 17.5 grams of propionaldehyde in 125 milliliters of benzene. The reaction mixture is stirred for an additional 30 minutes at 70° C. and is then neutralized by the addition of a solution of 50 milliliters of concentrated hydrochloric acid in 100 milliliters of water. The layers are separated and benzene is removed from the organic layer on a rotary evaporator. The viscous residue crystallizes on mixing with hexane and the solid is separated by filtration. There is obtained 67.5 grams of 2,2-bis(3,5-ditert.butyl-4-hydroxybenzyl propionaldehyde.

reactant | sodium hydroxide | 30 grams | [OH-].[Na+]
reactant | 3,5-di-t-butyl-4-hydroxybenzyl chloride | 127.5 grams | C(C)(C)(C)C=1C=C(CCl)C=C(C1O)C(C)(C)C | C15H23ClO
reactant | propionaldehyde | 17.5 grams | C(CC)=O | C3H6O
reactant | hydrochloric acid | 50 milliliters | Cl | ClH
catalyst | tetrabutylammonium bromide | 5 grams | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | benzene | 125 milliliters | C1=CC=CC=C1 | C6H6
solvent | water | 100 milliliters | O | H2O
solvent | benzene | 250 milliliters | C1=CC=CC=C1 | C6H6
solvent | water | 60 milliliters | O | H2O
product | 3,5-ditert.butyl-4-hydroxybenzyl propionaldehyde | C(C)(C)(C)C=1C=C(CC(C=O)C)C=C(C1O)C(C)(C)C | C18H28O2
